US07915424B2
N-(2-Fluoro-5-trimethylsilanylethynylbenzyl)-methanesulfonamide
Dissolve zinc (II) bromide (313 mg, 1.20 mmol) in tetrahydrofuran (2.5 mL) and treat with triethylamine (0.64 mL, 4.80 mmol). After 4 min add N-(5-bromo-2-fluorobenzyl)methanesulfonamide (282 mg, 1.00 mmol), (prepared as described in PREPARATION 35), trimethylsilylacetylene (0.30 mL, 2.12 mmol), and tetrakis(triphenylphosphine)palladium (0) (58 mg, 0.050 mmol) to the reddish solution. Heat to 60° C. in a sealed tube overnight, cool to room temperature and filter through diatomaceous earth with ethyl acetate. Concentrate the filtrate and purify the residue by silica gel chromatography, eluting with 75:25 hexanes:ethyl acetate, to give the title compound as a white crystalline solid (220 mg, 74%).

reactant | triethylamine | 4.80 mmol, 0.64 mL | C(C)N(CC)CC | C6H15N
reactant | N-(5-bromo-2-fluorobenzyl)methanesulfonamide | 1.00 mmol, 282 mg | BrC=1C=CC(=C(CNS(=O)(=O)C)C1)F | C8H9BrFNO2S
reactant | trimethylsilylacetylene | 2.12 mmol, 0.30 mL | C[Si](C)(C)C#C | C5H10Si
solvent | tetrahydrofuran | 2.5 mL | O1CCCC1 | C4H8O
catalyst | zinc (II) bromide | 1.20 mmol, 313 mg | [Br-].[Zn+2].[Br-]
catalyst | tetrakis(triphenylphosphine)palladium | 0.050 mmol, 58 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | N-(2-Fluoro-5-trimethylsilanylethynylbenzyl)-methanesulfonamide | 220 mg, 74% | FC1=C(CNS(=O)(=O)C)C=C(C=C1)C#C[Si](C)(C)C | C13H18FNO2SSi
